*******************************************************************************
* Sub circuit nullor
* Nodes:       out+ out- in+ in-
.subckt nullor 3    4    1   2
E1 3 4 3 5 1
E2 5 4 1 2 1
.ends nullor
*******************************************************************************
* Sub circuit nNoise
* LTspice subcircuit for a noisy nullor for noise analysis
* Lowest frequency 100uHz
* For lower frequencies increase C1 and C2
* Nodes:       in+ in- out+ out- 
.subckt nNoise inP inN outP outN params: Sv=1n Si=1p flv=1k fli=10k
* Parameters:
* Sv:  input noise voltage density (noise-floor) in V/sqrt(Hz)
* flv: 1/f corner frequency of voltage noise
* Si:  input noise current density (noise-floor) in A/sqrt(Hz)
* fli: 1/f corner frequency of current noise
E1 outP 6 inP 5 1
E2 outP outN 6 outN 1
D1 1 3 DnoiseV
D2 3 outN DnoiseI
I1 outN 1 3.125u
C1 1 2 1
C2 3 4 1
Vi 2 3 0
Vv 4 outN 0
F1 inP inN Vi {Si*1e12}
H1 inN 5 Vv {Sv*1e12}
.model DnoiseV D kf={3.2e-19*flv} af=1
.model DnoiseI D kf={3.2e-19*fli} af=1
.ends nNoise
*******************************************************************************
* Sub circuit In
* Spice subcircuit of a current noise source for noise analysis
* Si: noise current density (noise-floor) in A/sqrt(Hz)
* fl: 1/f corner frequency
* Lowest frequency 100uHz
* For lower frequencies increase C1
.subckt In 3 4 params: fl=1 Si=1p
I1 0 1 3.125u
D1 1 0 dnoise
C1 1 2 1
V1 2 0 0
F1 3 4 V1 {Si*1e12}
.model dnoise d kf={3.2e-19*fl} af=1
.ends In
*******************************************************************************
* Sub circuit Vn
* LTspice subcircuit of a voltage noise source for noise analysis
* Sv: noise voltage density (noise-floor) in V/sqrt(Hz)
* fl: 1/f corner frequency
* Lowest frequency 100uHz
* For lower frequencies increase C1
.subckt vn 3 4 params: fl=1 Sv=1n
I1 0 1 3.125u
D1 1 0 dnoise
C1 1 2 1
V1 2 0 0
H1 3 4 V1 {Sv*1e12}
.model dnoise d kf={3.2e-19*fl} af=1
.ends Vn
********************************************************************************
* LTspice subcircuit for simple a 3-terminal OpAmp
* A voltage controlled voltage source models A_v(s)
* of a single-pole operational amplifier with
* a DC gain A_0=1Meg and a gain-bandwidth product GB=10MHz
* noninverting input: inP
* inverting input:    inN
* output:             out
* reference node:     0
.subckt simpleopamp inP inN out params: A_0=1meg GB=10meg
E1 out 0 inP inN laplace = {A_0/(1+s*A_0/2/pi/GB)}
.ends  simpleopamp
